US08044213B2
A mixture of 0.060 g (0.15 mmole) of 3-[5-carbamoyl-4-(3-chloro-phenyl)-thiazol-2-yl]-3H-benzoimidazole-5-carboxylic acid (I.10a), 0.06 mL of 4-aminopiperidine, 0.070 g (0.18 mmole) of 1-[bis(dimethylamino)methylene]-1H-1,2,3-triazolo[4,5-b]pyridinium, 3-oxide, hexafluorophosphate(1-) (1:1) and 4 mL of dimethylformamide was stirred at room temperature for 16 hours. The mixture was poured into 50 mL of water and extracted three times with 25 mL of ethyl acetate. The combined organic extracts were washed three times with 20 mL of 1 M hydrochloric acid. The combined aqueous extracts were made basic with potassium carbonate, and the resulting solid collected by filtration, washed with water, and air-dried to give 0.038 g of 3-[5-carbamoyl-4-(3-chloro-phenyl)-thiazol-2-yl]-3H-benzoimidazole-5-carboxylic acid (1-methyl-piperidin-4-yl)-amide (I.10) as a light yellow solid. MH+/Z=495

reactant | 3-[5-carbamoyl-4-(3-chloro-phenyl)-thiazol-2-yl]-3H-benzoimidazole-5-carboxylic acid | 0.15 mmole, 0.060 g | C(N)(=O)C1=C(N=C(S1)N1C=NC2=C1C=C(C=C2)C(=O)O)C2=CC(=CC=C2)Cl | C18H11ClN4O3S
reactant | 4-aminopiperidine | 0.06 mL | NC1CCNCC1 | C5H12N2
reactant | 1-[bis(dimethylamino)methylene]-1H-1,2,3-triazolo[4,5-b]pyridinium | 0.18 mmole, 0.070 g | CN(C)C(=[N+]1N=NC2=NC=CC=C21)N(C)C
reactant | hexafluorophosphate(1-) | F[P-](F)(F)(F)(F)F
solvent | water | 50 mL | O | H2O
solvent | dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | 3-[5-carbamoyl-4-(3-chloro-phenyl)-thiazol-2-yl]-3H-benzoimidazole-5-carboxylic acid (1-methyl-piperidin-4-yl)-amide | 0.038 g | CN1CCC(CC1)NC(=O)C1=CC2=C(N=CN2C=2SC(=C(N2)C2=CC(=CC=C2)Cl)C(N)=O)C=C1 | C24H23ClN6O2S
